US05112998
In 10 ml of acetone was dissolved 4.3 mg (0.010 mmole) of 20-(5,5-dimethyl-1,3-dioxan-2-yl)pregna-5,7-diene-1α,3β-diol, followed by addition of 1 ml of a 1 mmole/l solution of p-toluenesulfonic acid in acetone (containing 0.001 mmole of p-toluenesulfonic acid). The mixture was refluxed for 2 hours. The reaction mixture thus obtained was cooled to room temperature and the solvent was distilled off under reduced pressure. The residue was dissolved in 40 ml of methylene chloride and this methylene chloride solution was washed with saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution in that order and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane=1:5, v/v) to give 2.8 mg of 1α,3β-dihydroxypregna-5,7-diene-20-carbaldehyde (yield: 82%).

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)pregna-5,7-diene-1α,3β-diol | 0.010 mmole, 4.3 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O)C | C27H42O4
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 0.001 mmole | CC(=O)C | C3H6O
product | 1α,3β-dihydroxypregna-5,7-diene-20-carbaldehyde | 2.8 mg, yield: 82% | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)O | C22H32O3
